US06897231B2
B. 3-{3-[2-(Dimethylamino)acetylamino]phenyl}-1H-indazole-5-carboxamide
3-{3-[2-(Dimethylamino)acetylamino]phenyl}-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide was suspended in toluene (10 mL) and HCl gas was bubbled through the suspension for 15 min. The reaction was then stirred at room temperature overnight. After neutralization with aqueous NaHCO3, the reaction mixture was evaporated to dryness and purified by preparatory HPLC. (0.027 g, 13.5% yield over 2 steps): 1H NMR (CD3OD) 8.66 (s, 1H), 8.22 (t, 1H), 7.97 (dd, 1H), 7.75 (t, 2H), 7.63 (d, 2H), 7.51 (t, 1H), 3.21 (s, 2H), 2.41 (s, 6H); ES-MS (m/z) 338 [M+H]+.

reactant | 3-{3-[2-(Dimethylamino)acetylamino]phenyl}-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | CN(CC(=O)NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1)C | C23H27N5O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{3-[2-(Dimethylamino)acetylamino]phenyl}-1H-indazole-5-carboxamide | 13.5% yield | CN(CC(=O)NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N)C | C18H19N5O2
